US04260756
6-(3-Pyridyl)-1,2,4-triazolo[4,3-b]pyridazine
A mixture of 1.5 g. of 3-chloro-6-(3-pyridyl)pyridazine and 0.96 g. of formic acid hydrazide in 50 ml. of n-butyl alcohol is refluxed for 48 hours. The reaction mixture is concentrated, partitioned and crystallized as described in Example 1 to afford 1.0 g. of the product of the Example as a cream colored solid, m.p. 199°-200°.

reactant | 3-chloro-6-(3-pyridyl)pyridazine | ClC=1N=NC(=CC1)C=1C=NC=CC1 | C9H6ClN3
reactant | formic acid hydrazide | C(=O)NN | CH4N2O
solvent | n-butyl alcohol | C(CCC)O | C4H10O
product | 6-(3-Pyridyl)-1,2,4-triazolo[4,3-b]pyridazine | N1=CC(=CC=C1)C=1C=CC=2N(N1)C=NN2 | C10H7N5
